US07320993B1
N-(6-hydroxy-6,6-diphenyl-hexyl)-3-pyridin-3-yl-acrylamide (Substance 31)
Batch size: 3.2 g (21.6 mmol) 3-(3-pyridyl)-acrylic acid, 3.85 g (23.8 mmol) CDI and 4.2 g (25.9 mmol) 6-hydroxy-6,6-diphenyl-hexylamine in 60 ml abs. THF.

reactant | 3-(3-pyridyl)-acrylic acid | 21.6 mmol, 3.2 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | CDI | 23.8 mmol, 3.85 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 6-hydroxy-6,6-diphenyl-hexylamine | 25.9 mmol, 4.2 g | OC(CCCCCN)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H23NO
solvent | THF | C1CCOC1 | C4H8O
product | N-(6-hydroxy-6,6-diphenyl-hexyl)-3-pyridin-3-yl-acrylamide | OC(CCCCCNC(C=CC=1C=NC=CC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H28N2O2
